US09193717B2
Step B: (5R)-5-Benzyl-3-[(1R)-1-(4-fluorophenyl)ethyl]-5-(5-pyrimidin-5-yl-1H-benzimidazol-2-yl)-1,3-oxazolidine-2,4-dione
To a mixture of (5R)-5-benzyl-5-(5-bromo-1H-benzimidazol-2-yl)-3-[(1R)-1-(4-fluorophenyl)ethyl]-1,3-oxazolidine-2,4-dione (25 mg), Pd(OAc)2 (1 mg), dppf (5.5 mg), K3PO4 (31 mg), 3-pyrimidinyl boronic acid (12 mg) in 0.5 mL of ethanol was heated at 120° C. in microwave for 5 min. The reaction mixture was diluted with EtOAc, filtered, concentrated, and then purified via Gilson RP-HPLC (30-100% MeCN/water w/0.1% TFA) to give the title compound. LC/MS 508.1 (M+1). IC50 value=A rating

reactant | (5R)-5-benzyl-5-(5-bromo-1H-benzimidazol-2-yl)-3-[(1R)-1-(4-fluorophenyl)ethyl]-1,3-oxazolidine-2,4-dione | 25 mg | C(C1=CC=CC=C1)[C@]1(C(N(C(O1)=O)[C@H](C)C1=CC=C(C=C1)F)=O)C1=NC2=C(N1)C=CC(=C2)Br | C25H19BrFN3O3
reactant | K3PO4 | 31 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-pyrimidinyl boronic acid | 12 mg | N=1CN(C=CC1)B(O)O | C4H7BN2O2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 5.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | (5R)-5-Benzyl-3-[(1R)-1-(4-fluorophenyl)ethyl]-5-(5-pyrimidin-5-yl-1H-benzimidazol-2-yl)-1,3-oxazolidine-2,4-dione | C(C1=CC=CC=C1)[C@]1(C(N(C(O1)=O)[C@H](C)C1=CC=C(C=C1)F)=O)C1=NC2=C(N1)C=CC(=C2)C=2C=NC=NC2 | C29H22FN5O3
